US08278482B2
3-Azido-3-methyl-1-(pyrrolidin-1-yl)butan-1-one
To a stirred ice cold solution of 3-azido-3-methylbutanoyl chloride (6.00 g, 37.1 mmol) in anhydrous DCE (100 mL) was added pyrrolidine (6.19 mL, 2 equiv, 74.2 mmol) in one portion. The reaction was stirred and left at 0° C. for 1 h. Water (100 mL) was added to the reaction mixture and the contents poured into a separatory funnel. The organic layer was separated and washed with water (3×100 mL) and brine (100 mL). It was dried over anhydrous MgSO4, filtered, concentrated and dried under high vacuum to give a crude oil (6.23 g, 85.6%). This material was used without further purification. 1H NMR (CDCl3, 400 MHz): δ 1.47 (s, 6H), 1.82-1.90 (q, J=6.8, 2H), 1.92-2.00 (q, J=6.8, 2H), 2.45 (s, 2H), 3.44-3.50 (t, J=6.8, 4H). 1.43 (s, 6H), 2.11-2.15 (m, 2H), 3.09 (s, 3 H), 3.35 (s, 2H), 3.41 (dt, J=7.2, 4H). LRMS (ESI+) for C9H16N4O (196.1); Found: 197 (MH+).

reactant | 3-azido-3-methylbutanoyl chloride | 37.1 mmol, 6.00 g | N(=[N+]=[N-])C(CC(=O)Cl)(C)C | C5H8ClN3O
reactant | pyrrolidine | 74.2 mmol, 6.19 mL, 2 equiv | N1CCCC1 | C4H9N
reactant | Water | 100 mL | O | H2O
solvent | DCE | 100 mL | ClCCCl | C2H4Cl2
product | 3-Azido-3-methyl-1-(pyrrolidin-1-yl)butan-1-one | 6.23 g, 85.6% | N(=[N+]=[N-])C(CC(=O)N1CCCC1)(C)C | C9H16N4O
